US07713994B2
To a 25 mL round bottom flask is added 1-bromo-4-nitrobenzene (404 mg, 2.0 mmol), 4-pyridinylboronic acid (248 mg, 2.0 mmol), Na2CO3 (424 mg, 4.0 mmol) and Pd(PPh3)4 (100 mg, 0.087 mmol), DME (10 mL) and H2O (3 mL). The mixture is degassed and heated at reflux for 14 h. TLC is used to establish the completion of starting bromide, the mixture is allowed to cool to room temperature. EtOAc is added, and the EtOAc layer is washed with H2O (15 mL) and brine (10 mL) and dried over MgSO4. After removal of EtOAc, the resulting residue is subjected to flash chromatography with CH2Cl2/EtOAc (3:1) as eluent to provide the coupling product 4-(4-nitro-phenyl)-pyridine (288 mg, 72%). 1H NMR (400 MHz, CDCl3) ∂ 8.75 (2H, dd, J=6.0 and 2.8 Hz), 8.36 (2H, dd, J=9.6 and 3.2 Hz), 7.80 (2H, dd, J=8.8 and 2.4 Hz), 7.54 (2H, dd, J=5.6 and 2.0 Hz).

reactant | 1-bromo-4-nitrobenzene | 2.0 mmol, 404 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-pyridinylboronic acid | 2.0 mmol, 248 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 4.0 mmol, 424 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.087 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 3 mL | O | H2O
product | 4-(4-nitro-phenyl)-pyridine | 288 mg, 72% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=NC=C1 | C11H8N2O2
